US04906645
(R)-a-[[(1,1-Dimethyl-3-(3-hydroxyphenyl)propyl)amino]methyl]tetrazolo[1,5-a]pyridine-6-methanol
A solution of 194 mg (1.21 mmol) of (R)-2-(tetrazolo[1,5-a]pyrid-6-yl)oxirane and 195 mg of 2-amino-2-methyl-4-(3-hydroxyphenyl)butane in 25 ml of absolute ethanol was heated at reflux for 6.5 hours. The reaction mixture was concentrated and the residue chromatographed on silica gel (4:1:2:1 ethyl acetate:n-propanol:water:ammonium hydroxide) to give 137 mg of product.

reactant | (R)-2-(tetrazolo[1,5-a]pyrid-6-yl)oxirane | 1.21 mmol, 194 mg | N=1N=NN2C1C=CC(=C2)[C@H]2OC2 | C7H6N4O
reactant | 2-amino-2-methyl-4-(3-hydroxyphenyl)butane | 195 mg | NC(C)(CCC1=CC(=CC=C1)O)C | C11H17NO
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | (R)-a-[[(1,1-Dimethyl-3-(3-hydroxyphenyl)propyl)amino]methyl]tetrazolo[1,5-a]pyridine-6-methanol | 137 mg | CC(CCC1=CC(=CC=C1)O)(C)NC[C@H](O)C=1C=CC=2N(C1)N=NN2 | C18H23N5O2
